US05475106
The procedure used is similar to that described in Example 17, but starting with tert-butyl 2-[(4-chlorophenyl)amino]acetate (1.8 g), 2-[3-(3-methylphenyl)-ureido]acetic acid (1.56 g) and thionyl chloride (0.89 g). The product obtained is purified by chromatography on silica (0.04-0.063 mm) (60 g) contained in a column 2.5 cm in diameter [eluent: cyclohexane/ethyl acetate (80:20 by volume)], using an excess pressure of nitrogen of 40 kPa and collecting 20-cc fractions. Fractions 21 to 25 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After crystallisation in acetonitrile, tert-butyl 2-{N-(4-chlorophenyl)-2-[3-(3-methylphenyl)ureido]acetamido}acetate (0.5 g), m.p. 125° C., is obtained.

reactant | tert-butyl 2-[(4-chlorophenyl)amino]acetate | 1.8 g | ClC1=CC=C(C=C1)NCC(=O)OC(C)(C)C | C12H16ClNO2
reactant | 2-[3-(3-methylphenyl)-ureido]acetic acid | 1.56 g | CC=1C=C(C=CC1)NC(NCC(=O)O)=O | C10H12N2O3
reactant | thionyl chloride | 0.89 g | S(=O)(Cl)Cl | Cl2OS
product | tert-butyl 2-{N-(4-chlorophenyl)-2-[3-(3-methylphenyl)ureido]acetamido}acetate | 0.5 g | ClC1=CC=C(C=C1)N(C(CNC(=O)NC1=CC(=CC=C1)C)=O)CC(=O)OC(C)(C)C | C22H26ClN3O4
